US08710245B2
(b) Synthesis of 1-((6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methyl)pyrrolidine
A mixture of 4-(chloromethyl)-6,7-dihydro-4H-thieno[3,2-c]pyran (1 g, 5.305 mmol, 1 eq), pyrrolidine (11.3 g, 159.1 mmol, 30 eq) and NaI (50 mg) in DMF (50 mL) in a sealed tube was stirred at 130° C. for 6 hr. The reaction mixture was cooled and poured into H2O and the pH was adjusted to ˜2 with 2N HCl. The resulting solution was washed with EtOAc. The aqueous layer was then adjusted to pH 9-10 and extracted with EtOAc. The EtOAc layers were washed with brine, dried over Na2SO4, filtered, and concentrated. The resulting crude product was purified by preparative HPLC. After removal of organic volatiles of the collected HPLC fractions, the pH of remaining aqueous phase was adjusted to ˜8 with saturated Na2CO3 solution. The aqueous solution was extracted with EtOAc (3 times). The combined EtOAc extract was washed with brine, dried with Na2SO4, and concentrated to give the desired product.

reactant | 4-(chloromethyl)-6,7-dihydro-4H-thieno[3,2-c]pyran | 5.305 mmol, 1 g, 1 eq | ClCC1OCCC2=C1C=CS2 | C8H9ClOS
reactant | pyrrolidine | 159.1 mmol, 11.3 g, 30 eq | N1CCCC1 | C4H9N
reactant | NaI | 50 mg | [Na+].[I-]
reactant | HCl | 2N | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 1-((6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methyl)pyrrolidine | S1C=CC=2C(OCCC21)CN2CCCC2 | C12H17NOS
